US04797455
N-phenyl-N',N'-dimethyl urea;
Phenylurea or 1,3-diphenylurea; 83(22):180415j.

reactant | Phenylurea | C1(=CC=CC=C1)NC(=O)N | C7H8N2O
reactant | 1,3-diphenylurea | C1(=CC=CC=C1)NC(=O)NC1=CC=CC=C1 | C13H12N2O
product | N-phenyl-N',N'-dimethyl urea | C1(=CC=CC=C1)NC(=O)N(C)C | C9H12N2O
